US08791275B2
(2E,4E,6E,8E)-9-(4-Methoxy-2,3,6-trimethylphenyl)-3,7-dimethyl-N-(pyridin-4-yl)nona-2,4,6,8-tetraenamide
Reaction of acitretin (0.10 g, 0.31 mmol) with 4-aminopyridine (0.03 g, 0.31 mmol) was conducted according to the general amide coupling procedure using DCC to obtain the product as a yellow solid (0.08 g, 61%). EIMS m/z: 403 ([M]+), 401 ([M]−).

reactant | acitretin | 0.31 mmol, 0.10 g | CC1=CC(=C(C(=C1/C=C/C(=C/C=C/C(=C/C(=O)O)/C)/C)C)C)OC | C21H26O3
reactant | 4-aminopyridine | 0.31 mmol, 0.03 g | NC1=CC=NC=C1 | C5H6N2
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
product | (2E,4E,6E,8E)-9-(4-Methoxy-2,3,6-trimethylphenyl)-3,7-dimethyl-N-(pyridin-4-yl)nona-2,4,6,8-tetraenamide | 0.08 g, 61% | COC1=C(C(=C(C(=C1)C)/C=C/C(=C/C=C/C(=C/C(=O)NC1=CC=NC=C1)/C)/C)C)C | C26H30N2O2
